US08703953B2
To a solution of methyl 4-(4-chloro-2-fluorophenyl)-6-methylnicotinate (0.32 g, 1.144 mmol) in tetrahydrofuran (10 mL) at −10° C., LAH (1.716 mL, 1.716 mmol) was added portionwise. The reaction mixture was stirred for 2 h at RT then diluted with saturated aqueous NH4Cl (50 mL). The mixture was extracted with ethyl acetate (80 mL). The organic layer was separated, dried over Na2SO4 and concentrated to afford (4-(4-chloro-2-fluorophenyl)-6-methylpyridin-3-yl) methanol (0.25 g, 0.993 mmol, 87% yield) as off-white solid. LCMS (ESI) m/e 252.0 [(M+H)+, calcd for C13H12ClFNO 252.0]; LC/MS retention time (Method H): tR=1.60 min; 1H NMR (400 MHz, CDCl3) δ 7.69 (s, 1H), 7.52 (s, 1H), 7.23 (s, 2H), 7.04-7.17 (m, 1H), 4.57 (d, J=11.60 Hz, 2H), 2.60 (s, 3H).

reactant | methyl 4-(4-chloro-2-fluorophenyl)-6-methylnicotinate | 1.144 mmol, 0.32 g | ClC1=CC(=C(C=C1)C1=CC(=NC=C1C(=O)OC)C)F | C14H11ClFNO2
reactant | LAH | 1.716 mmol, 1.716 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
product | (4-(4-chloro-2-fluorophenyl)-6-methylpyridin-3-yl) methanol | 0.993 mmol, 0.25 g, 87% yield | ClC1=CC(=C(C=C1)C1=C(C=NC(=C1)C)CO)F | C13H11ClFNO
